* C:\users\juani\Escritorio\TC2\tp_semanal_3\LT\Draft1.asc
R1 N004 N003 1
R2 N002 N001 1
L1 N005 N004 0.798
C1 N005 0 0.798
V1 N003 0 AC 1
XU1 N005 N001 N001 opamp Aol=100K GBW=10Meg
C2 N002 0 0.798
.ac dec 100 0.1 1
.lib opamp.sub
.backanno
.end
